US09163008B2
A mixture of 4-fluorophenol (1.12 g, 10 mmol), 2-bromo-5-iodopyridine (2.84 g, 10 mmol) and Cs2CO3 (3.83 g, 10 mmol) in DMF was stirred at 120° C. for 4 hrs. The reaction was worked up with EtOAc to give 2-(4-fluoro-phenoxy)-5-iodo-pyridine which was used for next step without further purification (crude yield 100%, yellowish solid). LC/MS: m/z=317 [M+H]+.

reactant | 4-fluorophenol | 10 mmol, 1.12 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 2-bromo-5-iodopyridine | 10 mmol, 2.84 g | BrC1=NC=C(C=C1)I | C5H3BrIN
reactant | Cs2CO3 | 10 mmol, 3.83 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-fluoro-phenoxy)-5-iodo-pyridine | FC1=CC=C(OC2=NC=C(C=C2)I)C=C1 | C11H7FINO
